US07943628B2
Preparation 44:6-Chloro-N4-(1-methylcyclopropyl)pyrimidine-2.4-diamine
2-amino-4,6-dichloropyrimidine (508 mg, 3.1 mmol) was added to a suspension of 1-methylcyclopropylamine hydrochloride (1.0 g, 9.3 mmol) and sodium methoxide (502mg, 9.30 mmol) in NMP (3 ml). The resulting mixture was heated at 90° C. for 16 hours and then cooled to room temperature. The reaction mixture was diluted with water (20 ml) and the resulting precipitate filtered off, washed with further water (20 ml) and dried in vacuo to give the title compound as a colourless solid (280 mg, 15%).

reactant | 2-amino-4,6-dichloropyrimidine | 3.1 mmol, 508 mg | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | 1-methylcyclopropylamine hydrochloride | 9.3 mmol, 1.0 g | Cl.CC1(CC1)N
reactant | sodium methoxide | 9.30 mmol, 502mg | C[O-].[Na+]
solvent | NMP | 3 ml | CN1CCCC1=O | C5H9NO
solvent | water | 20 ml | O | H2O
product | 6-Chloro-N4-(1-methylcyclopropyl)pyrimidine-2.4-diamine | 280 mg, 15% | ClC1=CC(=NC(=N1)N)NC1(CC1)C | C8H11ClN4
